US06855710B2
b) 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone
5.6 g (20 mmol) of 1-acetyl-3-(1-hydroxy-1-phenyl-methylidene)-2-indolinone are suspended in 45 ml of toluene and while cooling with ice combined with 4.2 g (20 mmol) of phosphorus pentachloride and then stirred for 18 hours at ambient temperature. The precipitate formed after cooling with ice is suction filtered and dried.

reactant | 1-acetyl-3-(1-hydroxy-1-phenyl-methylidene)-2-indolinone | 20 mmol, 5.6 g | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)O)=O | C17H13NO3
reactant | phosphorus pentachloride | 20 mmol, 4.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | 1-acetyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)Cl)=O | C17H12ClNO2
